US05306728
Production of 6-methoxy-6-methyl-2,4-heptadiyn-1-ol
200 ml of a 70% aqueous solution of ethyamine, 1 g of copper(I) chloride, 5 g of hydroxylamine hydrochloride and 25 g of propargyl alcohol were dissolved in 500 ml of methanol, and with ice cooling and stirring, a methanol solution (100 ml) of 74 g of 1-bromo-3-methoxy-3-methyl-1-butyne was added. The mixture was stirred at room temperature for 1 hour, and then the solvent was evaporated. Water and ethyl acetate were added, and the insoluble material was removed by filtration. The organic layer separated was worked up in a customary manner, and the product was purified by vacuum distillation ( b.p. -97° C. / 2 mmHg ) to give 57 g of the captioned compound as a colorless oil.

reactant | ethyamine | C(C)N | C2H7N
reactant | hydroxylamine hydrochloride | 5 g | Cl.NO
reactant | propargyl alcohol | 25 g | C(C#C)O | C3H4O
reactant | 1-bromo-3-methoxy-3-methyl-1-butyne | 74 g | BrC#CC(C)(C)OC | C6H9BrO
solvent | methanol | 500 ml | CO | CH4O
catalyst | copper(I) chloride | 1 g | [Cu]Cl
solvent | methanol | 100 ml | CO | CH4O
product | 6-methoxy-6-methyl-2,4-heptadiyn-1-ol | 57 g | COC(C#CC#CCO)(C)C | C9H12O2
